US04070539
Step B: 2-(1-Oxo-2-ethyl-2,6,7-trichloro-5-indanyloxy)-methylpropionic Acid
2-(1-Oxo-2-ethyl-6,7-dichloro-5-indanyloxy)-2-methylpropionic acid (4.7 g., 0.0014 mole) is dissolved in warm acetic acid (170 ml.) and treated with a solution of chlorine (1.06 g., 0.015 mole) in acetic acid (20 ml.) at 20° C. with stirring. The reaction mixture is kept at 20° C. for one hour and then at 80°0 C. for one hour. The reaction mixture is cooled and added to water (1 1.) with stirring. The white powder that separates is recrystallized from acetic acid-water (4:3) to obtain 3.0 g. of 2-(1-oxo-2-ethyl-2,67-trichloro-5-indanyloxy)-2-methylpropionic acid, m.p. 164.5°-165° C.

reactant | 2-(1-Oxo-2-ethyl-6,7-dichloro-5-indanyloxy)-2-methylpropionic acid | 0.0014 mole, 4.7 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OC(C(=O)O)(C)C)CC | C15H16Cl2O4
reactant | chlorine | 0.015 mole, 1.06 g | ClCl | Cl2
reactant | water | O | H2O
solvent | acetic acid | 170 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-(1-Oxo-2-ethyl-2,6,7-trichloro-5-indanyloxy)-methylpropionic Acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OC(C(=O)O)(C)C)(Cl)CC | C15H15Cl3O4
